US05420275
3,4-Diethoxycarbonyl-5-nitro-6-phenyl-2-(1,2,4-triazol-1-yl)pyridine
A mixture of 0.379 g of 2-chloro-3,4-diethoxycarbonyl-5-nitro-6-phenylpyridine, 0.2 g of (1H-1,2,4-triazole, 0.2 ml of pyridine and 15 ml of 1,2-dichloroethane was reacted at 80° C. for 18 hours. After the reaction mixture was concentrated, the concentrate was extracted with ethyl acetate. The extract was washed with water and a saturated aqueous solution of sodium chloride and dried over sodium sulfate. After the solvent was distilled off, the residue was subjected to silica gel column chromatography (eluent:dichloromethane/ethyl acetate 4:1), to give 0.19 g of the title compound as yellow crystals.

reactant | 2-chloro-3,4-diethoxycarbonyl-5-nitro-6-phenylpyridine | 0.379 g | ClC1=NC(=C(C(=C1C(=O)OCC)C(=O)OCC)[N+](=O)[O-])C1=CC=CC=C1 | C17H15ClN2O6
reactant | 1H-1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
product | 3,4-Diethoxycarbonyl-5-nitro-6-phenyl-2-(1,2,4-triazol-1-yl)pyridine | 0.19 g | C(C)OC(=O)C=1C(=NC(=C(C1C(=O)OCC)[N+](=O)[O-])C1=CC=CC=C1)N1N=CN=C1 | C19H17N5O6
